US04831041
To a suspension of 8-[2,6-bis(hydroxymethyl)benzyloxy]-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine (4.9 g) in methanol (80 ml) was added 1 N hydrochloric acid (15 ml) at room temperature. The obtained clear solution was concentrated under reduced pressure and the residue was recrystallized from a mixture of acetone (100 ml) and water (8 ml) to give 8-[2,6-bis(hydroxymethyl)benzyloxy]-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine hydrochloride (4.44g)

reactant | 8-[2,6-bis(hydroxymethyl)benzyloxy]-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | 4.9 g | OCC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)CO | C20H20N2O3
reactant | hydrochloric acid | 1 N, 15 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 8-[2,6-bis(hydroxymethyl)benzyloxy]-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine hydrochloride | 4.44g | Cl.OCC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)CO | InChI=1S/C20H20N2O3.ClH/c1-3-6-18-14(2)21-20-19(9-5-10-22(18)20)25-13-17-15(11-23)7-4-8-16(17)12-24;/h1,4-5,7-10,23-24H,6,11-13H2,2H3;1H
